US07253286B2
N-(4-[(7-Cyano-6-methoxy-4-quinolyl)oxy]phenyl)-N′-(4-fluoro-phenyl)urea
After adding toluene (5 ml), acetonitrile (1.5 ml) and 4-fluorophenyl isocyanate (0.105 ml) to 4-(4-aminophenoxy)-6-methoxyquinoline-7-carbonitrile (180 mg), the mixture was heated to reflux for 30 minutes.

reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-fluorophenyl isocyanate | 0.105 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 4-(4-aminophenoxy)-6-methoxyquinoline-7-carbonitrile | 180 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)OC)C#N)C=C1 | C17H13N3O2
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | N-(4-[(7-Cyano-6-methoxy-4-quinolyl)oxy]phenyl)-N′-(4-fluoro-phenyl)urea | C(#N)C1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)OC | C24H17FN4O3
